US08754107B2
a) 3,4-Dichloro-N-[2-(3-hydroxy-pyrrolidin-1-yl)-2-oxo-ethyl]-benzamide
The titled compound was prepared from (3,4-dichloro-benzoylamino)-acetic acid (preparation #14) and pyrrolidin-3-ol according to the general procedure G. m/z: (M+H)+ 317.

reactant | (3,4-dichloro-benzoylamino)-acetic acid | ClC=1C=C(C(=O)NCC(=O)O)C=CC1Cl | C9H7Cl2NO3
reactant | pyrrolidin-3-ol | N1CC(CC1)O | C4H9NO
product | 3,4-Dichloro-N-[2-(3-hydroxy-pyrrolidin-1-yl)-2-oxo-ethyl]-benzamide | ClC=1C=C(C(=O)NCC(=O)N2CC(CC2)O)C=CC1Cl | C13H14Cl2N2O3
